US08871782B2
To a stirring solution of tert-butyl 4-{[2-(ethoxymethyl)-1-propyl-1H-imidazo[4,5-c]quinolin-7-yl]oxy}piperidine-1-carboxylate (5.17 g, 10.5 mmol) in chloroform (100 mL) was added 3-chloroperoxybenzoic acid (3.62 g, 10.5 mmol, based on 50% purity). After 30 minutes, concentrated ammonium hydroxide (50 mL) was added and the mixture was stirred for 30 minutes. p-Toluenesulfonyl chloride (2.00 g, 10.5 mmol) was added in 3 portions and the mixture was stirred for 16 hours. The layers were separated and the organic fraction was sequentially washed with 5% aqueous sodium bicarbonate, water, and saturated aqueous sodium chloride. The organic fraction was dried over anhydrous sodium sulfate, filtered and evaporated under reduced pressure. Recrystallization from acetonitrile afforded 2.58 g of tert-butyl 4-{[4-amino-2-(ethoxymethyl)-1-propyl-1H-imidazo[4,5-c]quinolin-7-yl]oxy}piperidine-1-carboxylate as a reddish-tan crystalline solid, mp 194-195° C.

reactant | tert-butyl 4-{[2-(ethoxymethyl)-1-propyl-1H-imidazo[4,5-c]quinolin-7-yl]oxy}piperidine-1-carboxylate | 10.5 mmol, 5.17 g | C(C)OCC=1N(C2=C(C=NC=3C=C(C=CC23)OC2CCN(CC2)C(=O)OC(C)(C)C)N1)CCC | C26H36N4O4
reactant | 3-chloroperoxybenzoic acid | 10.5 mmol, 3.62 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | ammonium hydroxide | 50 mL | [OH-].[NH4+]
reactant | p-Toluenesulfonyl chloride | 10.5 mmol, 2.00 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
product | tert-butyl 4-{[4-amino-2-(ethoxymethyl)-1-propyl-1H-imidazo[4,5-c]quinolin-7-yl]oxy}piperidine-1-carboxylate | 2.58 g | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CCC)COCC)OC2CCN(CC2)C(=O)OC(C)(C)C | C26H37N5O4
